US07727988B2
5-(4-methyl-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride (E64)
5-(4-methyl-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione was suspended in dioxane (2 ml) and treated with a 4N HCl in dioxane solution (2 eq) to give the title compound as a white solid.

reactant | 5-(4-methyl-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione | CC1=C(C=NC=C1)C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C25H25F3N4O2
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 eq | O1CCOCC1 | C4H8O2
product | 5-(4-methyl-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride | Cl.Cl.CC1=C(C=NC=C1)C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C25H25F3N4O2.2ClH/c1-16-7-8-29-12-20(16)21-14-32(23(34)30-22(21)33)10-2-9-31-13-19-11-24(19,15-31)17-3-5-18(6-4-17)25(26,27)28;;/h3-8,12,14,19H,2,9-11,13,15H2,1H3,(H,30,33,34);2*1H/t19-,24+;;/m0../s1
